US07772246B2
To a solution of 5-bromo-2,3-dimethyl-1H-pyrrolo[2,3-b]pyridine (B-6-4) (0.4 g, 1.77 mmol) in DMF (30 mL) were added KOAc (0.52 g, 5.3 mmol) and bis(pinacolato)diboron (0.68 g, 2.65 mmol), and the resulting mixture was degassed under N2 for 2 minutes. Then Pd(dppf)2Cl2 (40 mg, 0.049 mmol) was added and the mixture was degassed again. The reaction was heated to 80-90° C. and stirred overnight. The mixture was poured into water (100 mL), extracted with EtOAc (40 mL×3). The organic layer was washed with saturated aqueous NaCl, dried over Na2SO4 and concentrated to give crude 2,3-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine (B-6-5) (0.7 g), which was not purified and used directly in next step.

reactant | 5-bromo-2,3-dimethyl-1H-pyrrolo[2,3-b]pyridine | 1.77 mmol, 0.4 g | BrC=1C=C2C(=NC1)NC(=C2C)C | C9H9BrN2
reactant | KOAc | 5.3 mmol, 0.52 g | CC(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 2.65 mmol, 0.68 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
catalyst | Pd(dppf)2Cl2 | 0.049 mmol, 40 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2,3-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine | CC1=C(C=2C(=NC=C(C2)B2OC(C(O2)(C)C)(C)C)N1)C | C15H21BN2O2
